US06541505B1
6-Piperidin-1-ylhexanenitrile.
Using piperidine and 6-chloro-hexanenitrile as substrates. MS (ion spray) m/z 181 (M+H)+.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 6-chloro-hexanenitrile | ClCCCCCC#N | C6H10ClN
product | 6-Piperidin-1-ylhexanenitrile | N1(CCCCC1)CCCCCC#N | C11H20N2
